** sch_path: /foss/designs/ECG_Acquisition_IC/Design_Files/IC Design/Testbench/FD_OTA/FDC/Open_Loop/FDC_TB_OL_NOM.sch
**.subckt FDC_TB_OL_NOM
IBIAS AGND B dc 40u
VAVDD AVDD 0 dc {AVDD_SET} ac 0
.save i(vavdd)
CLP OUTP AGND 40p
VVCM VCM AGND dc {VCM_SET} ac 0
VDIFF VDIFF AGND dc {VOSDC} ac 1
VAVSS AGND 0 dc {AVSS_SET} ac 0
.save i(vavss)
EINN INN VCM VDIFF AGND -0.5
EINP INP VCM VDIFF AGND 0.5
xSEOTA1 AVDD AGND INP INN OUTN B OUTP CMFB FDC
CLN OUTN AGND 40p
VCMFBBIAS CMFBBIAS AGND dc {CMFB_BIAS} ac 0
EOUTCM VOUTCM OPH OUTN AGND 0.5
EOPH OPH AGND OUTP AGND 0.5
ECMERR CMERR AGND VCM VOUTCM 1
ECMFB CMFB CMFBBIAS CMERR AGND {CMFB_GAIN}
**** begin user architecture code

.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical



.control
destroy all
save all
set wr_vecnames
set wr_singlescale
option numdgt=15

shell mkdir -p /foss/designs/ECG_Acquisition_IC/Measurement_Results/IC_Simulation/FD_OTA/FDC/NOM.Result_txt

shell rm -f /foss/designs/ECG_Acquisition_IC/Measurement_Results/IC_Simulation/FD_OTA/FDC/NOM.Result_txt/NOM.ol_op.txt
shell rm -f /foss/designs/ECG_Acquisition_IC/Measurement_Results/IC_Simulation/FD_OTA/FDC/NOM.Result_txt/NOM.ol_diff_ac.txt
shell rm -f /foss/designs/ECG_Acquisition_IC/Measurement_Results/IC_Simulation/FD_OTA/FDC/NOM.Result_txt/NOM.ol_offset.txt
shell rm -f /foss/designs/ECG_Acquisition_IC/Measurement_Results/IC_Simulation/FD_OTA/FDC/NOM.Result_txt/NOM.ol_noise.txt
shell rm -f /foss/designs/ECG_Acquisition_IC/Measurement_Results/IC_Simulation/FD_OTA/FDC/NOM.Result_txt/NOM.ol_noise_integrated.txt

let avdd_run = 3.3
let vcm_run  = avdd_run/2
let vos_run  = 0

* OP
alter @VAVDD[DC] = $&avdd_run
alter @VVCM[DC]  = $&vcm_run
alter @VDIFF[DC] = $&vos_run

alter @VVCM[ACMAG]  = 0
alter @VDIFF[ACMAG] = 0
alter @VAVDD[ACMAG] = 0
alter @VAVSS[ACMAG] = 0

op

let op_vdd     = v(avdd)-v(agnd)
let op_vinp    = v(inp)-v(agnd)
let op_vinn    = v(inn)-v(agnd)
let op_vid     = op_vinp-op_vinn

let op_voutp   = v(outp)-v(agnd)
let op_voutn   = v(outn)-v(agnd)
let op_voutcm  = (op_voutp+op_voutn)/2
let op_vod     = op_voutp-op_voutn

let op_ibias   = 40e-6
let op_idd     = -vavdd#branch
let op_power   = -(v(avdd)*vavdd#branch+v(agnd)*vavss#branch)
let op_cmfb    = v(cmfb)-v(agnd)

wrdata /foss/designs/ECG_Acquisition_IC/Measurement_Results/IC_Simulation/FD_OTA/FDC/NOM.Result_txt/NOM.ol_op.txt op_vdd op_vinp op_vinn op_vid op_voutp op_voutn op_voutcm op_vod op_ibias op_idd op_power op_cmfb


* Differential AC
alter @VVCM[DC]  = $&vcm_run
alter @VDIFF[DC] = $&vos_run

alter @VVCM[ACMAG]   = 0
alter @VDIFF[ACMAG]  = 1
alter @VDIFF[ACPHASE] = 0
alter @VAVDD[ACMAG]  = 0
alter @VAVSS[ACMAG]  = 0

ac dec 200 1 1G

let vid_ac  = v(inp)-v(inn)
let vod_ac  = v(outp)-v(outn)
let ad_ac   = vod_ac/vid_ac
let ad_real = real(ad_ac)
let ad_imag = imag(ad_ac)

setscale frequency

wrdata /foss/designs/ECG_Acquisition_IC/Measurement_Results/IC_Simulation/FD_OTA/FDC/NOM.Result_txt/NOM.ol_diff_ac.txt ad_real ad_imag


* Offset
alter @VVCM[DC] = $&vcm_run

alter @VVCM[ACMAG]  = 0
alter @VDIFF[ACMAG] = 0
alter @VAVDD[ACMAG] = 0
alter @VAVSS[ACMAG] = 0

dc VDIFF -0.02 0.02 1e-5

let off_vdiff  = v(vdiff)-v(agnd)
let off_vinp   = v(inp)-v(agnd)
let off_vinn   = v(inn)-v(agnd)

let off_voutp  = v(outp)-v(agnd)
let off_voutn  = v(outn)-v(agnd)
let off_voutcm = (off_voutp+off_voutn)/2
let off_vod    = off_voutp-off_voutn

let off_idd    = -vavdd#branch
let off_cmfb   = v(cmfb)-v(agnd)

setscale off_vdiff

wrdata /foss/designs/ECG_Acquisition_IC/Measurement_Results/IC_Simulation/FD_OTA/FDC/NOM.Result_txt/NOM.ol_offset.txt off_vinp off_vinn off_voutp off_voutn off_voutcm off_vod off_idd off_cmfb


* Integrated noise
alter @VVCM[DC]  = $&vcm_run
alter @VDIFF[DC] = $&vos_run

alter @VVCM[ACMAG]   = 0
alter @VDIFF[ACMAG]  = 1
alter @VDIFF[ACPHASE] = 0
alter @VAVDD[ACMAG]  = 0
alter @VAVSS[ACMAG]  = 0

noise v(outp,outn) VDIFF dec 100 0.05 150

setplot noise2

let input_noise_Vrms  = inoise_total
let output_noise_Vrms = onoise_total

echo f_low_Hz f_high_Hz input_noise_Vrms output_noise_Vrms > /foss/designs/ECG_Acquisition_IC/Measurement_Results/IC_Simulation/FD_OTA/FDC/NOM.Result_txt/NOM.ol_noise_integrated.txt
echo 0.05 150 $&input_noise_Vrms $&output_noise_Vrms >> /foss/designs/ECG_Acquisition_IC/Measurement_Results/IC_Simulation/FD_OTA/FDC/NOM.Result_txt/NOM.ol_noise_integrated.txt


* Noise density
noise v(outp,outn) VDIFF dec 100 0.01 10Meg

setplot noise3

let input_noise_VrtHz  = inoise_spectrum
let output_noise_VrtHz = onoise_spectrum

setscale frequency

wrdata /foss/designs/ECG_Acquisition_IC/Measurement_Results/IC_Simulation/FD_OTA/FDC/NOM.Result_txt/NOM.ol_noise.txt input_noise_VrtHz output_noise_VrtHz

quit
.endc




.param AVDD_SET=3.3
.param AVSS_SET=0
.param TEMP_SET=27
.param VCM_SET={AVDD_SET/2}

.param VOSDC=0
.param CMFB_BIAS=2.4847
.param CMFB_GAIN=500

.temp {TEMP_SET}

.options gmin=1e-12 rshunt=1e12 method=gear
.nodeset v(B)=2.3 v(CMFB)={CMFB_BIAS} v(OUTP)={VCM_SET} v(OUTN)={VCM_SET}


**** end user architecture code
**.ends

* expanding   symbol:  ECG_Acquisition_IC/Design_Files/IC Design/Schematic/FD_OTA/FDC/FDC.sym # of pins=8
** sym_path: /foss/designs/ECG_Acquisition_IC/Design_Files/IC Design/Schematic/FD_OTA/FDC/FDC.sym
** sch_path: /foss/designs/ECG_Acquisition_IC/Design_Files/IC Design/Schematic/FD_OTA/FDC/FDC.sch
.subckt FDC FDC_DD FDC_SS FDC_INP FDC_INN FDC_OUTN FDC_B FDC_OUTP FDC_CMFB
*.iopin FDC_DD
*.iopin FDC_SS
*.ipin FDC_INP
*.ipin FDC_INN
*.opin FDC_OUTP
*.iopin FDC_B
*.opin FDC_OUTN
*.iopin FDC_CMFB
XM3 net4 FDC_CMFB FDC_DD FDC_DD pfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=200
XM8 FDC_OUTP FDC_B FDC_SS FDC_SS nfet_03v3 L=0.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=100
Rz net1 net2 3.5k
XM5 net3 FDC_B FDC_SS FDC_SS nfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=10
XM6 FDC_OUTP net1 FDC_DD FDC_DD pfet_03v3 L=0.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=200
XM10 FDC_B FDC_B FDC_SS FDC_SS nfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=20
Cc net2 FDC_OUTP 2.5p
XM9 FDC_OUTN FDC_B FDC_SS FDC_SS nfet_03v3 L=0.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=100
Rz1 net4 net5 3.5k
XM7 FDC_OUTN net4 FDC_DD FDC_DD pfet_03v3 L=0.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=200
Cc1 net5 FDC_OUTN 2.5p
XM4 net1 FDC_CMFB FDC_DD FDC_DD pfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=200
XM1 net4 FDC_INN net3 FDC_SS nfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=200
XM2 net1 FDC_INP net3 FDC_SS nfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=200
.ends

.GLOBAL AVDD
.end
